US07868036B2
a) 2-Methyl-2-(tetrahydro-pyran-4-yl)-propionic acid ethyl ester
A solution of 1 g (tetrahydro-pyran-4-yl)-acetic acid ethyl ester [103260-44-2] in 3 ml of dry tetrahydrofuran is added dropwise to a solution of lithium diisopropyl amide (freshly prepared from 1 ml diisopropyl amine and 4.3 ml 1.6 M butyllithium solution in hexanes) in 5 ml of dry tetrahydrofuran at −78° C. The reaction mixture is stirred for 15 minutes at −78° C. and then 0.46 ml of methyl iodide are added and the mixture is allowed to warm to 0° C. over a period of 15 minutes. The reaction mixture is re-cooled to −78° C. and then a solution of lithium diisopropyl amide (freshly prepared from 1 ml diisopropyl amine and 4.3 ml 1.6 M butyllithium solution in hexanes) in 5 ml of dry tetrahydrofuran is added dropwise. The solution is stirred for 15 minutes at −78° C. and then 0.46 ml of methyl iodide are added and the mixture is allowed to warm to room temperature. After 2 hours, the reaction mixture is quenched with 20 ml of 1M HCl and then extracted with tert-butyl methyl ether (2×). The combined organic phases are washed with brine, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained as a colourless oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.27 (1:5 EtOAc-heptane).

reactant | (tetrahydro-pyran-4-yl)-acetic acid ethyl ester | 1 g | C(C)OC(CC1CCOCC1)=O | C9H16O3
reactant | lithium diisopropyl amide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropyl amine | 1 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 1.6 M, 4.3 ml | C(CCC)[Li]
reactant | methyl iodide | 0.46 ml | CI | CH3I
reactant | diisopropyl amine | 1 ml | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | 1.6 M, 4.3 ml | C(CCC)[Li]
reactant | methyl iodide | 0.46 ml | CI | CH3I
reactant | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-Methyl-2-(tetrahydro-pyran-4-yl)-propionic acid ethyl ester | C(C)OC(C(C)(C1CCOCC1)C)=O | C11H20O3
